US09315477B2
2-Octyl-5,6-dicyano-2H-benzo[d][1,2,3]triazole (DCBTz)
5,6-Dicyano-1H-benzotriazole (169 mg, 1.0 mmol), 1-bromooctane (195 mg, 1.0 mmol), potassium tert-butoxide (113 mg, 1 mmol), and methanol (5 mL) were mixed in a round-bottomed flask equipped with a condenser. The reaction mixture was refluxed overnight. The mixture was cooled down to room temperature and methanol was removed with a rotary evaporator. The resulting mixture was then extracted with CHCl3 and the organic phase was washed with water and dried over Na2SO4. The resulting off-white solid was purified by column chromatography (80 mg, 30%).

reactant | 5,6-Dicyano-1H-benzotriazole | 1.0 mmol, 169 mg | C(#N)C1=CC2=C(NN=N2)C=C1C#N | C8H3N5
reactant | 1-bromooctane | 1.0 mmol, 195 mg | BrCCCCCCCC | C8H17Br
reactant | potassium tert-butoxide | 1 mmol, 113 mg | CC(C)([O-])C.[K+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-Octyl-5,6-dicyano-2H-benzo[d][1,2,3]triazole | C(CCCCCCC)N1N=C2C(=N1)C=C(C(=C2)C#N)C#N | C16H19N5
